US04927819
To a solution of 2-bromo-5-p-toluenesulphonyloxymethyl-dibenzo[a,d]cycloheptene (8.1 g) in glacial acetic acid (75 ml) was added anhydrous sodium acetate (2.9 g). The reaction mixture was refluxed for 24 h then the solvent removed under vacuum to leave a residue which was partitioned between dichloromethane (3×100 ml) and water (100 ml). The combined organic layers were dried (Na2SO4) , filtered and concentrated in vacuo to leave a residue which was dissolved in 75% aqueous methanol (100 ml) and treated with potassium hydroxide (4 g). After 14 h the reaction mixture was concentrated in vacuo and the residue partitioned between water (50 ml) and diethyl ether (3×50 ml). The combined organic layers were dried (Na2SO4) , filtered and concentrated in vacuo. Chromatography of the residue on flash silica with 10% ethyl acetate in hexane as eluent gave the less polar isomer, 2-bromo-5-hydroxy-dibenzo[a,e]cyclooctene (2.54 g, m.p. 148°-151° C.). δ (360 MHz, CDCl3) 3.26 (1H, dd, J=13.9 and 9.9 Hz, CHAHB --CHOH), 3.46 (1H, dd, J=13.9 and 6.2 Hz, CHAHB --CHOH), 5.24 (1H, dd, J=9.9 and 6.2 Hz, CHOH), 6.76 (1H, d, J=12.1 Hz, CHC =CHD), 6.87 (1H, d, J=12.1 Hz, CHC =CHD), 7.09-7.35 (7H, m, ArH), m/e 302 and 300 (M+); and as an oil the more polar isomer 2-bromo-6-hydroxy-dibenzo[a,e]cyclooctene (1.04 g), 67 (360 MHz, CDCl3) 3.25 (1H, dd, J=13.8 and 10.0 Hz CHAHB --CHOH), 3.40 (1H, dd, J=13.8 and 6.4 Hz, CHAHB --CHOH), 5.26 (1H, dd, J =10.0 and 6.4 Hz, CHAHB --CHOH), 6.75 (1H, d, J=12.1 Hz, CHC =CHD), 6.90 (1H, d, J=12.1 Hz, CHC =CHD), 7.08-7.45 (7H, m, ArH). m/e 302 and 300 (M+).

reactant | 2-bromo-5-p-toluenesulphonyloxymethyl-dibenzo[a,d]cycloheptene | 8.1 g | BrC1=CC2=C(C(C3=C(C=C2)C=CC=C3)COS(=O)(=O)C3=CC=C(C=C3)C)C=C1 | C23H19BrO3S
reactant | sodium acetate | 2.9 g | C(C)(=O)[O-].[Na+]
reactant | potassium hydroxide | 4 g | [OH-].[K+]
solvent | acetic acid | 75 ml | C(C)(=O)O | C2H4O2
solvent | methanol | 100 ml | CO | CH4O
product | 2-bromo-5-hydroxy-dibenzo[a,e]cyclooctene | 2.54 g | BrC1=CC2=C(C(=CC3=C(C=C2)C=CC=C3)O)C=C1 | C16H11BrO
